US07655666B2
To a solution of 1-benzyloxy-1H-pyrazole (1.17 g, 6.72 mmol) in THF (15 mL) at −78° C. was added dropwise n-BuLi (4.6 mL, 1.6M, 7.4 mmol). The mixture was stirred at −78° C. for 2 h before addition of Bu3SnCl (1.99 mL, 7.38 mmol). The mixture was kept at this temperature for 1 h and was then allowed to warm up to r.t. and stirred for 1 h. The mixture was concentrated in vacuo and hexanes was added. The insoluble material was removed by filtration and the filtrate was concentrated in vacuo to afford 1-benzyloxy-5-tributylstannanyl-1H-pyrazole (3.3 g, 100%) as a yellow syrup.

reactant | 1-benzyloxy-1H-pyrazole | 6.72 mmol, 1.17 g | C(C1=CC=CC=C1)ON1N=CC=C1 | C10H10N2O
reactant | n-BuLi | 7.4 mmol, 1.6M, 4.6 mL | [Li]CCCC
reactant | Bu3SnCl | 7.38 mmol, 1.99 mL | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-benzyloxy-5-tributylstannanyl-1H-pyrazole | 3.3 g, 100% | C(C1=CC=CC=C1)ON1N=CC=C1[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H9N2O.3C4H9.Sn/c1-2-5-10(6-3-1)9-13-12-8-4-7-11-12;3*1-3-4-2;/h1-7H,9H2;3*1,3-4H2,2H3;
